US06660744B1
A mixture 3-(3-methoxy-4-{[(5-methyl-2-furyl)methyl]amino}phenyl)-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.045 g, 0.0001 mol), 1-methyl-2-imidazole carboxaldehyde (0.011 g, 0.00011 mol), and acetic acid (0.018 g, 0.0003 mol) in dichloroethane (4 mL) was stirred at room temperature under an atmosphere of nitrogen for 1.5 hrs. Sodium triacetoxyborohydride (0.064 g, 0.0003 mol) was added into the mixture and the mixture was stirred at ambient temperature under an atmosphere of nitrogen for 18 hours. The reaction was quenched with an aqueous 5 N solution of sodium hydroxide. The solvents were removed under reduced pressure, and the residue was partitioned between water and dichloromethane. The organic layer was washed with water and brine. The solvents were removed under reduced pressure. The residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-100% over 35 min with 0.1 M ammonium acetate, 21 mL/min) to yield 3-(3-methoxy-4-{[(5-methyl-2-furyl)methyl]amino}phenyl)-1-{1-[(1-methyl-1H-2-imidazolyl)methyl]-4-piperidyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.03 g, 0.00006 mol).

reactant | 3-(3-methoxy-4-{[(5-methyl-2-furyl)methyl]amino}phenyl)-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0001 mol, 0.045 g | COC=1C=C(C=CC1NCC=1OC(=CC1)C)C1=NN(C2=NC=NC(=C21)N)C2CCNCC2 | C23H27N7O2
reactant | 1-methyl-2-imidazole carboxaldehyde | 0.00011 mol, 0.011 g | CN1C(=NC=C1)C=O | C5H6N2O
reactant | acetic acid | 0.0003 mol, 0.018 g | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.0003 mol, 0.064 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 4 mL | ClC(C)Cl | C2H4Cl2
product | 3-(3-methoxy-4-{[(5-methyl-2-furyl)methyl]amino}phenyl)-1-{1-[(1-methyl-1H-2-imidazolyl)methyl]-4-piperidyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00006 mol, 0.03 g | COC=1C=C(C=CC1NCC=1OC(=CC1)C)C1=NN(C2=NC=NC(=C21)N)C2CCN(CC2)CC=2N(C=CN2)C | C28H33N9O2
